US20010025109A1
10.1 g (100 mmol) of triethylamine are added dropwise in the course of one hour to a suspension of 9.9 g (50 mmol) of O-acetyl-L-homoserine hydrochloride and 21.8 g (100 mmol) of Boc anhydride in 100 ml of tetrahydrofuran, and stirring is carried out for 12 hours at room temperature. After the addition of 100 ml of water, the tetrahydrofuran is distilled off in vacuo, the pH is adjusted to 2 using concentrated hydrochloric acid, and the mixture is extracted twice using 100 ml of methyl isobutyl ketone each time. Concentration of the solution in vacuo yields 12.1 g (92%) of N-Boc-O-acetyl-L-homoserine in the form of a colourless oil.

reactant | triethylamine | 100 mmol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | O-acetyl-L-homoserine hydrochloride | 50 mmol, 9.9 g | Cl.C(C)(=O)OCC[C@H](N)C(=O)O
reactant | Boc anhydride | 100 mmol, 21.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Boc-O-acetyl-L-homoserine | 12.1 g, 92% | C(=O)(OC(C)(C)C)N[C@@H](CCOC(C)=O)C(=O)O | C11H19NO6
